US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one (200 mg, 0.6 mmol) in 6 mL of 2-methoxyethanol was stirred at room temperature for 20 h and partitioned between water and dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified on a silica gel column eluting with ethyl acetate-hexane (1:3) to give 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-methoxy-ethyl ester (63 mg, 31%) as an red solid. 1H NMR (400 MHz, CDCl3) δ 12.71 (s, 1H, NH-1′), 7.85 (d, J=7.05 Hz, 1H), 7.50 (d, J=7.05 Hz, 1H), 7.40 (s, 1H, H-vinyl), 7.16-7.23 (m, 2H), 6.03 (s, br, 1H, H-4′), 4.62 (t, J=4.70 Hz, 2H, CH2), 3.81 (t, J=4.70 Hz, 2H, CH2), 2.38 (s, 3H, CH3), and 2.34 (s, 3H, CH3). MS m/z (relative intensity, %) 341 (100, [M+1]+.)

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one | 0.6 mmol, 200 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | 2-methoxyethanol | 6 mL | COCCO | C3H8O2
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-methoxy-ethyl ester | 63 mg, 31% | COCCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C19H20N2O4
